US04845106
A mixture of N-(2-chloro-5-pyridylmethyl)3-aminopropanethiol (4.3 g), 1-nitro-2,2-bis(methylthio)ethylene (3.3 g) and ethanol (40 ml) was heated under reflux for 10 hours in a stream of nitrogen. After the reaction, about 2/3 of ethanol was distilled off under reduced pressure. Ether was added little by little to the reaction mixture to precipitate crystals. The crystals were collected by filtration, and washed with a mixture of ethanol and ether to give the desired 3-(2-chloro-5-pyridylmethyl)-2-nitromethylenetetrahydro-2H-1,3-thiazine (1.3 g) as yellow crystals.

reactant | N-(2-chloro-5-pyridylmethyl)3-aminopropanethiol | 4.3 g | ClC1=NC=C(C=C1)CNCCCS | C9H13ClN2S
reactant | 1-nitro-2,2-bis(methylthio)ethylene | 3.3 g | [N+](=O)([O-])C=C(SC)SC | C4H7NO2S2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-(2-chloro-5-pyridylmethyl)-2-nitromethylenetetrahydro-2H-1,3-thiazine | 1.3 g | ClC1=NC=C(C=C1)CN1C(SCCC1)=C[N+](=O)[O-] | C11H12ClN3O2S
